US04933453
3-[4-[1-(2-Methoxyphenyl)-4-piperazinyl]butyl]-1,4-dioxothiazolidine
A mixture of 3-(4-bromobutyl)-1,4-dioxothiazolidine (3.37 g), 1-(2-methoxyphenyl)piperazine (2.80 g), K2CO3 (4.60 g), NaI (190 mg) and CH3CN (150 ml) was heated at reflux (bath temperature 95° C.) for 24 h. TLC analysis (silica gel, 20% MeOH/CH2Cl2) showed the consumption of the starting sulfoxide and the presence of one major product with Rf =0.43. The mixture was cooled to room temperature, EtOAc (100 m) was added and the mixture was filtered. The filtrate was concentrated in vacuo to an oil which was filtered through silica gel using 20% MeOH/CH2Cl2 as the eluent. The fractions containing the material with Rf =0.43 were concentrated in vacuo to yield 4.83 g of a foam, which was dissolved in MeOH/CH2Cl2 and flash chromatographed (silica gel) to yield 3.28 g of a crude product. Rechromatography over silica gel using 50% MeOH/toluene as eluent yielded 2.98 g of an oil which solidified on standing. The solid was dissolved in 50% MeOH/EtOAc and filtered through silica gel. The filtrate containing the product was concentrated to approximately 5 ml and the oily liquid was seeded and left standing, yielding 0.91 g of a white solid, mp, 111°-113° C. The mother liquor was concentrated in vacuo to a solid which was recrystallized from CH2Cl2 /Et2O, yielding an additional 0.79 g of fine needles, mp, 111°-113° C.

reactant | 3-(4-bromobutyl)-1,4-dioxothiazolidine | 3.37 g | BrCCCCN1CS(CC1=O)=O | C7H12BrNO2S
reactant | 1-(2-methoxyphenyl)piperazine | 2.80 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | K2CO3 | 4.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 150 ml | CC#N | C2H3N
catalyst | NaI | 190 mg | [Na+].[I-]
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 3-[4-[1-(2-Methoxyphenyl)-4-piperazinyl]butyl]-1,4-dioxothiazolidine | 4.83 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCN1CS(CC1=O)=O | C18H27N3O3S
